US20010018446A1
The 3-[[3-(4-chloro-3-ethylphenoxy)phenyl]amino]-1,1,1 -trifluoro-2-propanol product from EX-18C was dissolved in 12 mL of tetrahydrofuran. To this stirred solution was added cyclohexanecarboxaldehyde (0.032 g, 0.285 mmol), followed by sodium tri-acetoxyborohydride (0.079 g, 0.370 mmol and concentrated acetic acid (0.020 g, 0.325 mmol). The resulting mixture was stirred at room temperature for 18 h. Additional cyclohexanecarboxaldehyde (0.032 g, 0.285 mmol) was added and the mixture was allowed to stir at room temperature for another 18 h. The reaction was quenched with saturated sodium bicarbonate and extracted with methylene chloride. The organic layers were combined, dried over MgSO4 and concentrated to an orange/brown oil. The crude product was purified by flash column chromatography on silica gel eluting with 1:4 ethyl acetate in hexane to give 0.080 g (61%) of the desired 3-[[3-(4-chloro-3-ethylphenoxy)phenyl] [3 -cyclohexylmethyl]amino]-1,1,1 -trifluoro-2-propanol product as a yellow-orange oil (>95% pure by HPLC). HRMS calcd.: 456.1917 [M+H]+, found: 456.1942. 1H NMR (CDCl3) δ 0.82-1.01 (m, 2H), 1.22-1.27 (m, 3H), 1.73-1.76 (m, 5H), 2.74 (dd, 2H), 3.15 (dd, 2H), 3.23 (dd, 1H), 3.52 (m, 1H), 3.80 (dd, 1H), 4.28 (m, 1H), 6.34 (d, 2H), 6.42 (d, 1H), 6.83 (dd, 1H), 6.98 (d, 1H), 7.19 (t, 1H), 7.29 (d, 1H). 19F NMR (CDCl3) δ −79.06 (d, 3F).

reactant | 3-[[3-(4-chloro-3-ethylphenoxy)phenyl]amino]-1,1,1 -trifluoro-2-propanol | ClC1=C(C=C(OC=2C=C(C=CC2)NCC(C(F)(F)F)O)C=C1)CC | C17H17ClF3NO2
reactant | cyclohexanecarboxaldehyde | 0.285 mmol, 0.032 g | C1(CCCCC1)C=O | C7H12O
reactant | sodium tri-acetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.325 mmol, 0.020 g | C(C)(=O)O | C2H4O2
reactant | cyclohexanecarboxaldehyde | 0.285 mmol, 0.032 g | C1(CCCCC1)C=O | C7H12O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 3-[[3-(4-chloro-3-ethylphenoxy)phenyl] [3 -cyclohexylmethyl]amino]-1,1,1 -trifluoro-2-propanol | 0.080 g, 61% | ClC1=C(C=C(OC=2C=C(C=CC2)N(CC(C(F)(F)F)O)CC2CCCCC2)C=C1)CC | C24H29ClF3NO2
